US08735578B2
3-(2-chloroethyl)-2-ethylquinazoline-4 (3H)-one (1.5 g; 6.34 mmol), 1-(3-(trifluoromethyl)phenyl)piperazine (1.459 g; 6.34 mmol), sodium carbonate (0.672 g; 6.34 mmol), sodium iodide (0.95 g; 6.34 mmol), ethanol (100 mL) and toluene (200 mL) were added to a 100 mL reactor. The reaction medium was heated to reflux and kept under agitation for a period of 24 hours, during which 250 mL of solvent were slowly removed with assistance from a Dean Stark. The reaction was monitored through CG/MS until completion. After the end of the reaction, ethyl acetate (250 mL) was added, together with an aqueous solution of acetic acid (100 mL; 10%). The mixture was maintained under agitation for a period of 30 minutes. The organic phase was separated, washed with two portions of 50 mL of NaHCO3 at 5%, dried with MgSO4 and evaporated at reduced pressure, yielding a pale yellow colored oil (2.7 g of raw 2-ethyl-3-(2-(4-(3-(trifluoromethyl)phenyl)piperazine-1-yl)ethyl) quinazoline-4 (3H)-one). This oil was dissolved in isopropanol, adding 2.0 mL of concentrated HCl to the resulting solution. The solution was kept under agitation at room temperature, until completing precipitation of the solids. The solids were vacuum filtered, washed with two portions of 5 mL of isopropanol and dried, yielding 2-ethyl-3-(2-(4-(3-(trifluoromethyl)phenyl)piperazine-1-yl)ethyl)quinazoline-4 (3H)-one hydrochloride as a pale white solid (2.36 g, 5.48 mmol, yield: 87%).

reactant | 3-(2-chloroethyl)-2-ethylquinazoline-4 (3H)-one | 6.34 mmol, 1.5 g | ClCCN1C(=NC2=CC=CC=C2C1=O)CC | C12H13ClN2O
reactant | 1-(3-(trifluoromethyl)phenyl)piperazine | 6.34 mmol, 1.459 g | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
reactant | sodium carbonate | 6.34 mmol, 0.672 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 6.34 mmol, 0.95 g | [I-].[Na+]
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-ethyl-3-(2-(4-(3-(trifluoromethyl)phenyl)piperazine-1-yl)ethyl) quinazoline-4 (3H)-one | 2.7 g | C(C)C1=NC2=CC=CC=C2C(N1CCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | C23H25F3N4O
